US07456164B2
4-[4-(3-Piperazin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile
4-{3-[4-(4-Cyano-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (500 mg, 1.16 mmol), MeOH (5 ml), 1,4-dioxane (1 ml) and HCl in dioxane (4M, 1.8 ml) was stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo at 40° C., and diluted with TBME (5 ml). Aqueous NaOH (2M solution) was added to attain a pH of 14 and the mixture separated and extracted with TBME (2×5 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to provide title compound as a yellow oil (275 mg, 72%). 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.93 (d, 2H), 4.11-4.05 (m, 2H), 4.03 (t, 2H), 3.89 (td, 2H), 2.90 (t, 4H), 2.51 (t, 2H), 2.44 (br s, 4H), 2.15-2.00 (m, 4H), 1.97 (m, 2H), 1.74 (br s, 1H).

reactant | 4-{3-[4-(4-Cyano-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 1.16 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C24H35N3O4
reactant | MeOH | 5 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | dioxane | 4M, 1.8 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(3-Piperazin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile | 275 mg, 72% | N1(CCNCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H27N3O2
